US05300655
3-Ethoxy-5-isoxazolecarboxylic Acid
A stirred solution of methyl 3-ethoxy-5-isoxazolecarboxylate, prepared according to Example 78, (3.00 g, 17.53 mmole) in 75 ml of 2N sodium hydroxide was stirred at room temperature for ten minutes, cooled in an icebath and acidified to pH 3 with concentrated hydrochloric acid. The precipitated solid was collected by filtration. The remaining desired product was isolated by saturating the aqueous filtrate with solid sodium chloride and extracting with ethyl acetate (3× 100 ml). A total of 2.46 g (89% yield) of title compound was obtained in this way. The sample was recrystallized from acetonitrile, m.p. 210°-13° C.

reactant | methyl 3-ethoxy-5-isoxazolecarboxylate | C(C)OC1=NOC(=C1)C(=O)OC | C7H9NO4
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 75 ml | [OH-].[Na+]
product | 3-Ethoxy-5-isoxazolecarboxylic Acid | C(C)OC1=NOC(=C1)C(=O)O | C6H7NO4
